US04636523
In a manner similar to Step A of Example 1, the reaction of 12.5 g 0.07 mole) 4-amino-2,6-dichlorophenol, 7.3 g (0.053 mole) potassium carbonate, 1.0 g (0.013 mole) propanethiol, 36.5 g (0.14 mole) 1,2-dibromotetrafluoroethane and 125 ml of N,N-dimethylformamide produced 3.7 g of 4-(2-bromo-1,1,2,2-tetrafluoroethoxy)-3,5-dichloroaniline as an oil.

reactant | 4-amino-2,6-dichlorophenol | NC1=CC(=C(C(=C1)Cl)O)Cl | C6H5Cl2NO
reactant | potassium carbonate | 0.053 mole, 7.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | propanethiol | 0.013 mole, 1.0 g | C(CC)S | C3H8S
reactant | 1,2-dibromotetrafluoroethane | 0.14 mole, 36.5 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | N,N-dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 4-(2-bromo-1,1,2,2-tetrafluoroethoxy)-3,5-dichloroaniline | 3.7 g | BrC(C(OC1=C(C=C(N)C=C1Cl)Cl)(F)F)(F)F | C8H4BrCl2F4NO
